US04454338
Synthesis of 6-amidino-2-naphthyl 4-aminomethylbenzoate:
To a solvent mixture comprising100 ml of methanol and 20 ml of DMF, were added 5.0 g 6-amidino-2-naphthyl 4-benzyloxycarbonylaminomethylbenzoate methanesulfonate, 1.0 g of 10% Pd-C and 1.1 g of methanesulfonic acid. Hydrogen was introduced into the mixture with vigorous stirring for 3 hours. After completion of the reaction, the reaction mixture was filtered and the filtrate was concentrated to about half the volume. Ethyl ether was added to the concentrate and the precipitated crystals were collected by filtration to obtain 3.0 g of a white powder of 6-amidino-2-naphthyl 4-aminomethylbenzoate dimethanesulfonate.

reactant | methanol | CO | CH4O
reactant | 6-amidino-2-naphthyl 4-benzyloxycarbonylaminomethylbenzoate methanesulfonate | 5.0 g | CS(=O)(=O)O.C(C1=CC=CC=C1)OC(=O)NCC1=CC=C(C(=O)OC2=CC3=CC=C(C=C3C=C2)C(N)=N)C=C1
reactant | methanesulfonic acid | 1.1 g | CS(=O)(=O)O | CH4O3S
reactant | Hydrogen | [H][H] | H2
catalyst | Pd-C | 1.0 g | [Pd] | Pd
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 6-amidino-2-naphthyl 4-aminomethylbenzoate | 3.0 g | NCC1=CC=C(C(=O)OC2=CC3=CC=C(C=C3C=C2)C(N)=N)C=C1 | C19H17N3O2
